US07214673B2
(S)-2-[2-(2-chloro-phenyl)-ethyl]-piperazine
Dissolve (S)-1,4-dibenzyl-2-[2-(2-chloro-phenyl)-ethyl]-piperazine (2.59 g, 6.38 mmol) in dichloroethane (30 ml). Cool the solution to 0° and then add 1-chloroethyl chloroformate (2.74 g, 19.15 mmol) dropwise. Warm the solution to ambient temperature and then heat it at reflux for 15 hours. Remove the dichloroethane under vacuum and reflux the resulting residue in methanol for 1 hour. Remove the methanol under vacuum and dissolve the resulting precipitate in 1N NaOH. Extract the aqueous layer with dichloromethane and then combine, wash (brine), dry (sodium sulfate), and reduce the extracts to residue. Purify the residue on silica gel using dichloromethane/2N ammonia in methanol (90:10) to give 482.4 mg (34%) of the title compound: mass spectrum (ion spray): m/z=225.3 (M+1).

reactant | (S)-1,4-dibenzyl-2-[2-(2-chloro-phenyl)-ethyl]-piperazine | 6.38 mmol, 2.59 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC1=C(C=CC=C1)Cl | C26H29ClN2
reactant | 1-chloroethyl chloroformate | 19.15 mmol, 2.74 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
product | (S)-2-[2-(2-chloro-phenyl)-ethyl]-piperazine | 482.4 mg, 34% | ClC1=C(C=CC=C1)CC[C@@H]1NCCNC1 | C12H17ClN2
